US08686024B2
To a solution of 5-methoxy-1-methylindole (182 mg, 1.13 mmol) in 2.3 mL of acetic acid was added trifluoroacetic acid (1.1 mL). After the reaction mixture was added sodium cyanoborohydride (142 mg, 2.26 mmol) at 0° C., the reaction mixture was stirred at the same temperature for 2 h. After the reaction mixture was basified by 50% sodium hydroxide aqueous solution, the solution was extracted with diethyl ether (20 mL) twice. The combined extracts were washed with brine (5 mL), and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=95/5 to 80/20) to obtain 5-methoxy-1-methylindoline (131 mg, 71%).

reactant | 5-methoxy-1-methylindole | 1.13 mmol, 182 mg | COC=1C=C2C=CN(C2=CC1)C | C10H11NO
reactant | trifluoroacetic acid | 1.1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium cyanoborohydride | 2.26 mmol, 142 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 2.3 mL | C(C)(=O)O | C2H4O2
product | 5-methoxy-1-methylindoline | 131 mg, 71% | COC=1C=C2CCN(C2=CC1)C | C10H13NO
